US08871756B2
4-(Benzyloxy)-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazoline-6-carbaldehyde
To a cooled solution of 4-(4-benzyloxy-6-bromoquinazolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine (500 mg, 1.048 mmol) in anhydrous tetrahydrofuran (10 mL) was added anhydrous N,N-dimethylformamide (150 μL, 1.94 mmol) at −78° C. After being stirred at −78° C. for 30 minutes, the mixture was warmed to room temperature, diluted with water (10 mL) and extracted with ethyl acetate (20 mL×3). The combined organic layers were washed with a saturated aqueous solution of ammonium chloride (40 mL) and brine (40 mL), dried over anhydrous sodium sulfate, and concentrated in vacuo to afford 410 mg of the crude product as a yellow solid. MS obsd. (ESI+) [(M+H)+] 428.

reactant | 4-(4-benzyloxy-6-bromoquinazolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine | 1.048 mmol, 500 mg | C(C1=CC=CC=C1)OC1=NC(=NC2=CC=C(C=C12)Br)N1CCSC2=C(C1)C=CC=C2 | C24H20BrN3OS
reactant | N,N-dimethylformamide | 1.94 mmol, 150 μL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 4-(Benzyloxy)-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazoline-6-carbaldehyde | 410 mg | C(C1=CC=CC=C1)OC1=NC(=NC2=CC=C(C=C12)C=O)N1CCSC2=C(C1)C=CC=C2 | C25H21N3O2S
